US07465815B2
To a solution of 5-bromo-3-(4-isopropylphenyl)-4,6-dimethyl-2,3-dihydro-1-benzothiophene obtained in Reference Example 259 (870 mg, 2.41 mmol) and benzophenone imine (0.76 mL, 2.89 mmol) in toluene (15 mL) were added tris(dibenzylideneacetone)dipalladium (22 mg, 0.024 mmol) and BINAP (45 mg, 0.072 mmol) at room temperature, and the mixture was stirred under argon atmosphere for 15 minutes. To the reaction solution was added sodium tert-butoxide (324 mg, 3.37 mmol) at room temperature, and the mixture was heated under reflux under argon stream for 16 hours. Water was added to the reaction solution, which was extracted with ethyl acetate, and the organic layer was washed with water and a saturated brine, was dried over anhydrous sodium sulfate, and then the solvent was distilled off under reduced pressure to obtain the crude product of N-(diphenylmethylene)-3-(4-isopropylphenyl)-4,6-dimethyl-2,3-dihydro-1-benzothien-5-amine. This compound was dissolved in THF (10 mL), to which 1 N hydrochloric acid (2 mL) was added, and the mixture then was heated under reflux for 30 minutes. The solvent was concentrated under reduced pressure to obtain the residue, which was neutralized with 1 N aqueous sodium hydroxide solution. The product was extracted with ethyl acetate. The combined extract was washed with water, dried over magnesium sulfate, and then concentrated under reduced pressure. The obtained residue was purified by silica gel column chromatography (ethyl acetate:hexane=1:10) to obtain 521 mg (yield 73%) of the title compound. Melting point: 121-122° C. (hexane-ethyl acetate).

reactant | 5-bromo-3-(4-isopropylphenyl)-4,6-dimethyl-2,3-dihydro-1-benzothiophene | BrC=1C(=CC2=C(C(CS2)C2=CC=C(C=C2)C(C)C)C1C)C | C19H21BrS
reactant | benzophenone imine | 2.89 mmol, 0.76 mL | C(C1=CC=CC=C1)(C1=CC=CC=C1)=N | C13H11N
reactant | BINAP | 0.072 mmol, 45 mg | C=1C=CC(=CC1)P(C=2C=CC=CC2)C3=CC=C4C=CC=CC4=C3C5=C6C=CC=CC6=CC=C5P(C=7C=CC=CC7)C=8C=CC=CC8 | C44H32P2
reactant | sodium tert-butoxide | 3.37 mmol, 324 mg | CC(C)([O-])C.[Na+]
solvent | toluene | 15 mL | C1(=CC=CC=C1)C | C7H8
catalyst | tris(dibenzylideneacetone)dipalladium | 0.024 mmol, 22 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | Water | O | H2O
product | N-(diphenylmethylene)-3-(4-isopropylphenyl)-4,6-dimethyl-2,3-dihydro-1-benzothien-5-amine | C1(=CC=CC=C1)C(=NC=1C(=CC2=C(C(CS2)C2=CC=C(C=C2)C(C)C)C1C)C)C1=CC=CC=C1 | C32H31NS
